US04198420
0.13 ml of freshly distilled thionyl chloride are added to a mixture of 0.3 g of 1-acetyl-4-[2-(4-fluorophenylthio)phenyl]piperidine-4-carboxylic acid in 3 ml of methylene chloride. The mixture is stirred for 155 minutes before being diluted with 7.5 ml of methylene chloride. The reaction solution is added dropwise to 0.17 g of aluminum chloride. Thereafter, the reaction is stirred for 15 minutes and then refluxed for three hours. The refluxed mixture is stirred for 72 hours before the sequential addition of ice, 25 ml of water and 25 ml of chloroform. The mixture is shaken and then the layers separate. The aqueous layer is extracted twice with 25 ml portions of chloroform and the combined chloroform solutions are successively washed with one 20 ml portion of a 10% sodium hydroxide solution, two 30 ml portions of water and 1 ml of saturated sodium chloride solution, dried and evaporated. The residue is chromatographed on 20×20 cm. preparative, thick layer, silica gel plates with an acetone-ether-methylene chloride (1:1:1) mixture. The purified product is dissolved in benzene and diluted with hexane and then the solvent is removed, providing 1'-acetyl-2-fluoro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-acetyl-4-[2-(4-fluorophenylthio)phenyl]piperidine-4-carboxylic acid | 0.3 g | C(C)(=O)N1CCC(CC1)(C(=O)O)C1=C(C=CC=C1)SC1=CC=C(C=C1)F | C20H20FNO3S
reactant | aluminum chloride | 0.17 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 25 ml | O | H2O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7.5 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1'-acetyl-2-fluoro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | C(C)(=O)N1CCC2(CC1)C(C1=C(SC3=C2C=CC=C3)C=CC(=C1)F)=O | C20H18FNO2S
